US09278915B2
Intermediate 166: Ethyl (4-hydroxyphenoxy)acetate
To a 100 mL RB flask fitted with magnetic stirrer was charged 20 mL of DCM to the stirred solvent was added ethyl (4-methoxyphenoxy)acetate (2 g, 9.5 mmol) and Borontribromide (1.85 g, 11.0 mmol) was added at 0° C. Then it was stirred at 0° C. for 30-45 min. After completion of the reaction (reaction monitored by TLC), reaction mass quenched with Sodium bicarbonate and concentrated the reaction mixture and extracted with ethyl acetate. The organic layer was washed with brine and dried by anhydrous Na2SO4 and evaporated to dryness, the resulting crude compound was purified by column chromatography on silica gel using petroleum ether and ethyl acetate as eluent to give the product (0.2 g Yield: 20%): 1H NMR (300 MHz, DMSO-d6): δ 8.97 (s, 1H), 6.72-6.75 (d, 2H), 6.64-6.67 (d, 2H), 4.62 (s, 2H) 4.11-4.18 (q, 2H), 1.18-1.22 (t, 3H).

reactant | ethyl (4-methoxyphenoxy)acetate | 9.5 mmol, 2 g | COC1=CC=C(OCC(=O)OCC)C=C1 | C11H14O4
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (4-hydroxyphenoxy)acetate | Yield: 20% | OC1=CC=C(OCC(=O)OCC)C=C1 | C10H12O4
